US05536846
Synthesis of "Make-Up" N-Butylphthalimide
A 10-gallon stainless steel reactor equipped with a turbine blade impeller, cooling coil, distilling condenser, azeotropic separator, thermocouple probe and means to maintain a nitrogen atmosphere, was charged with 15.335 kg (103.53 moles) phthalic anhydride. N-butylamine (7.663 kg, 104.57 moles) from a pressure vessel was slowly added to the reactor which was at room temperature, e.g., about 25° C. The resulting exothermic reaction between the amine and phthalic anhydride was continued until the temperature in the reactor rose to 90° C., at which time addition of amine was complete. The reaction mixture was then heated, with removal of water, for a 5 hour period until the temperature of the mixture reached 200° C. The reaction mixture then was maintained at 200° C. for 2 hours. The resulting product was vacuum distilled at a temperature ranging from 150°-155° C. and at a pressure of 20 mm, to afford a liquid which solidified. The melting point of the solid was about 34° to 35° C. and was produced at a 95% yield.

reactant | phthalic anhydride | 103.53 moles, 15.335 kg | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | N-butylamine | 104.57 moles, 7.663 kg | C(CCC)N | C4H11N
solvent | water | O | H2O
product | N-Butylphthalimide | 95% yield | C(CCC)N1C(C=2C(C1=O)=CC=CC2)=O | C12H13NO2
